US08207168B2
A solution of 4-[4-(2-hydroxyethyl)-phenoxy]piperidine-1-carboxylic acid tert-butyl ester (8.10 g, 25.2 mmol) in 90 mL of CH2Cl2 was cooled to 0° C. as Dess-Martin periodinane (11.2 g, 26.5 mmol) was added in portions. After stirred at rt overnight, the reaction was diluted with 100 mL of CH2Cl2, and washed with saturated NaHCO3 (5×100 mL), water, and dried over Na2SO4. Flash chromatography with 60% Et2O in hexane gave 2.83 g (35%) of 4-[4-(2-oxo-ethyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester: MS m/z 220 (M−Boc+H).

reactant | 4-[4-(2-hydroxyethyl)-phenoxy]piperidine-1-carboxylic acid tert-butyl ester | 25.2 mmol, 8.10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)CCO | C18H27NO4
reactant | Dess-Martin periodinane | 26.5 mmol, 11.2 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(2-oxo-ethyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 2.83 g, 35% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)CC=O | C18H25NO4
